US08242153B2
To a mixture of 3-chloro-4-fluoro-phenylacetonitrile (8.48 g), 1,2-dibromoethane (13 ml) and benzyltriethylammonium chloride (0.46 g) was added sodium hydroxide solution (50% in water, 20 ml) at room temperature. The mixture was vigorously stirred overnight. Water was added and the aqueous phase was extracted twice with diethyl ether. The combined organic layers were washed with water and brine, dried over MgSO4 and concentrated. The residue was purified by column chromatography (SiO2; heptane/EtOAc) to give 1-(3-chloro-4-fluorophenyl)-cyclopropanecarbonitrile as light yellow liquid (3.91 g). 1H-NMR (300 MHz, CDCl3, δ): 1.35-1.40 (m, 2H), 1.72-1.76 (m, 2H), 7.10-7.21 (m, 2H), 7.26-7.34 (m, 1H).

reactant | 3-chloro-4-fluoro-phenylacetonitrile | 8.48 g | ClC=1C=C(C=CC1F)CC#N | C8H5ClFN
reactant | 1,2-dibromoethane | 13 ml | BrCCBr | C2H4Br2
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 0.46 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | Water | O | H2O
product | 1-(3-chloro-4-fluorophenyl)-cyclopropanecarbonitrile | 3.91 g | ClC=1C=C(C=CC1F)C1(CC1)C#N | C10H7ClFN
